US07683045B2
To a solution of 460 mg (2.0 mmol) of (E)-3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-enyl acetate in 20 ml of CH2Cl2 was added a solution of 1.33 g (4 mmol) of CBr4 in 10 ml of CH2Cl2. The solution was cooled to 0° C. and a solution of 1.05 g (4 mmol) of triphenylphosphine was added dropwise. The solution was allowed to warm up to room temperature for 6 hours and stirred at the same temperature for further 1 hour. The precipitate was filtered and the filtrate was evaporated. The residue was purified by chromatography on silica gel using Heptane/EtOAc (8/2) as eluent. 314 mg (1.52 mmol, 76%) of (E)-4-bromo-3-methylbut-2-enyl acetate were isolated as colourless oil.

reactant | (E)-3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-enyl acetate | 2.0 mmol, 460 mg | C(C)(=O)OC\C=C(\COC1OCCCC1)/C | C12H20O4
reactant | CBr4 | 4 mmol, 1.33 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-bromo-3-methylbut-2-enyl acetate | 1.52 mmol, 314 mg, 76% | C(C)(=O)OC\C=C(\CBr)/C | C7H11BrO2
